US08314138B2
Part C. To a solution of 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide (70 mg, 0.16 mmol, 1.0 equiv) in dimethyl ether (1 mL) was added Na2CO3 (34 mg, 0.32 mmol, 2.0 equiv), benzyl boronic acid pinacol ester (87 μL, 0.40 mmol, 2.5 equiv), PdCl2(dppf) (11 mg, 0.02 mmol, 0.1 equiv) and water (0.1 mL) in a sealed tube. The reaction was immersed in an oil bath preheated to 100° C. After stirring for 4 hr, the reaction was cooled and the solvent was removed in vacuo. The crude product was purified by column chromatography [SiO2, methanol/dichloromethane, 0:100 to 10:90, v/v] and recrystallization (methanol/pentane) to give 2-(6-benzyl-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide (41 mg, 65%). 1H NMR (400 MHz, CD2Cl2) δ 9.17 (s, 1H), 8.47 (s, 1H), 7.22-7.37 (m, 10H), 6.23 (bs, 1H), 4.59 (d, J=8.0 Hz, 2H), 4.19 (s, 2H), 2.72 (s, 3H); HRMS (M+H)+=401.14.

reactant | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide | 0.16 mmol, 70 mg, 1.0 equiv | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)I)C | C16H13IN4OS
reactant | Na2CO3 | 0.32 mmol, 34 mg, 2.0 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzyl boronic acid pinacol ester | 0.40 mmol, 87 μL, 2.5 equiv | C(C1=CC=CC=C1)B1OC(C)(C)C(C)(C)O1 | C13H19BO2
reactant | water | 0.1 mL | O | H2O
solvent | dimethyl ether | 1 mL | COC | C2H6O
catalyst | PdCl2(dppf) | 0.02 mmol, 11 mg, 0.1 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(6-benzyl-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid benzylamide | 41 mg, 65% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)CC1=CC=CC=C1)C | C23H20N4OS
